US05990133
5-Methoxy-1-[5-phenyl-3-(pyrid-3-yl)phenylcarbamoyl]-6-trifluoromethyl indoline (E43)
The title compound (0.74 g, 47%) was prepared as an off white solid using the methodology of example 28, with phenyl N-(5-phenyl-3-(pyrid-3-yl)phenyl)carbamate (D31) (0.27 g, 0.76 mmol) and 5-methoxy-6-trifluoromethyl indoline (D11) [0.182 mg, 0.83 mmol) in DMF (10 ml). Melting point: 150°-151° C.

reactant | phenyl N-(5-phenyl-3-(pyrid-3-yl)phenyl)carbamate | 0.76 mmol, 0.27 g | C1(=CC=CC=C1)C=1C=C(C=C(C1)NC(OC1=CC=CC=C1)=O)C=1C=NC=CC1 | C24H18N2O2
reactant | 5-methoxy-6-trifluoromethyl indoline | COC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Methoxy-1-[5-phenyl-3-(pyrid-3-yl)phenylcarbamoyl]-6-trifluoromethyl indoline | 0.74 g, 47% | COC=1C=C2CCN(C2=CC1C(F)(F)F)C(NC1=CC(=CC(=C1)C1=CC=CC=C1)C=1C=NC=CC1)=O | C28H22F3N3O2
